US09371319B2
Preparation 114: 6-Bromo-1-(4-fluorobenzyl)-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine
6-bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine (Preparation 22, 50 mg, 0.18 mmol) was dissolved in dry DMF (1 ml). The solution was degassed and a solution of sodium bis(trimethylsilyl)amide (0.27 ml of a 1M solution in THF, 0.27 mmol) was added. After 20 minutes reaction, 1-(bromomethyl)-4-fluorobenzene (51 mg, 0.27 mmol) was added and the reaction heated to 60° C. for 3 hours. The reaction was cooled to room temperature and diluted with ethyl acetate and water. The organic solution was washed with brine, dried over sodium sulphate and concentrated in vacuum. The crude product was purified on silica gel column chromatography eluting with 20% hexane in ethyl acetate to afford the title compound as white foam (50 mg, 71.9%). 1H-NMR (500 MHz, CDCl3) 3.92 (s, 3H), 5.31 (s, 2H), 6.62 (s, 1H), 6.93 (m, 2H), 7.02 (m, 2H), 7.27 (s, 1H), 7.39 (s, 1H), 7.51 (s, 1H), 8.63 (s, 1H).

reactant | 6-bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine | 0.18 mmol, 50 mg | BrC1=CC2=C(C=N1)C=C(N2)C=2C=NN(C2)C | C11H9BrN4
reactant | 1-(bromomethyl)-4-fluorobenzene | 0.27 mmol, 51 mg | BrCC1=CC=C(C=C1)F | C7H6BrF
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 6-Bromo-1-(4-fluorobenzyl)-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine | 50 mg, 71.9% | BrC1=CC2=C(C=N1)C=C(N2CC2=CC=C(C=C2)F)C=2C=NN(C2)C | C18H14BrFN4
